US06362177B1
A solution of 1-(4-chlorobenzyl)nipecotic acid (7.06 g, 27.8 mmol) in tBuOH (500 mL) was treated with Et3N (3.38 g) and activated 3 A molecular sieves (30 g). Diphenylphosphoryl azide (8.58 g) was added, and the reaction mixture was warmed at reflux for 18 h. The mixture was cooled and the solvent was reflux for 18 h. The mixture was cooled and the solvent was remove under vacuum. The residue was dissolved in EtOAc (500 mL), and the organic phase was washed with saturated aqueous NaHCO3 (2×100 mL) and brine (50 mL), dried (Na2SO4), and concentrated in vacuo. Chromatography (SiO2, 25% EtOAc-hexane) afforded 1-(4-chlorobenzyl)-3-{(tert-butoxycarbonyl)amino}piperidine (2.95 g, 32.6%) as a white crystalline solid: 1H NMR (CDCl3, 300 MHz) δ1.4-1.75 (br, 4H), 2.2-2.7 (br, 4H), 3.5 (br, 2H), 3.8 (br, 1H), 7.3 (br, 4H); The purity was determined by RPLC/MS (>99%); ESI/MS m/e 269.2 (M++H-56, C17H26ClN2O2).

reactant | 1-(4-chlorobenzyl)nipecotic acid | 27.8 mmol, 7.06 g | ClC1=CC=C(CN2CC(C(=O)O)CCC2)C=C1 | C13H16ClNO2
reactant | Et3N | 3.38 g | CCN(CC)CC | C6H15N
reactant | Diphenylphosphoryl azide | 8.58 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tBuOH | 500 mL | CC(C)(C)O | C4H10O
product | 1-(4-chlorobenzyl)-3-{(tert-butoxycarbonyl)amino}piperidine | 2.95 g, 32.6% | ClC1=CC=C(CN2CC(CCC2)NC(=O)OC(C)(C)C)C=C1 | C17H25ClN2O2
